US04878942
28.2 g of 4-hydroxy-N-(2,3-dichlorophenyl)-benzamide, 20.0 g of ethyl bromoacetate and 20.7 g of potassium carbonate were dispersed in 150 ml of N,N-dimethylformamide, and the dispersion was stirred at a temperature of from 120° to 140° C. for 4 hours. After completion of the reaction, the reaction solution was poured into 500 ml of a 2% hydrochloric acid aqueous solution. The crude product obtained by collecting precipitates by filtration, was recrystallized from toluene to obtain 34.5 g of desired ethyl 4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetate. Yield: 93.4% Melting point: 126°-129° C.

reactant | 4-hydroxy-N-(2,3-dichlorophenyl)-benzamide | 28.2 g | OC1=CC=C(C(=O)NC2=C(C(=CC=C2)Cl)Cl)C=C1 | C13H9Cl2NO2
reactant | ethyl bromoacetate | 20.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetate | 34.5 g, Yield: 93.4% | ClC1=C(C=CC=C1Cl)NC(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C17H15Cl2NO4
